US06313122B1
A. 2-Nitro-N-(3-chlorophenyl)benzamide
Using the procedure described in Example 93, Part A, 3-chloroaniline (9.4 mmol) and 2-nitrobenzoyl chloride (10.4 mmol) yielded 2.55 g (98%) of the title compound.

reactant | 3-chloroaniline | 9.4 mmol | ClC=1C=C(N)C=CC1 | C6H6ClN
reactant | 2-nitrobenzoyl chloride | 10.4 mmol | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
product | 2-Nitro-N-(3-chlorophenyl)benzamide | 2.55 g, 98% | [N+](=O)([O-])C1=C(C(=O)NC2=CC(=CC=C2)Cl)C=CC=C1 | C13H9ClN2O3
